US08445489B2
Step 3: 5-[6-Oxo-3-(3,4,5-trifluorophenyl)-6H-pyridazin-1-ylmethyl]-1,3-dihydrobenzimidazol-2-one
1 g (2.89 mmol) of 2-(3,4-diaminobenzyl)-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one are dissolved in 10 ml of THF, 702 mg (4.33 mmol) of 1,1″-carbonyldiimidazole (CDI) are added, and the mixture is stirred at room temperature. After 15 h, the precipitate formed is filtered off with suction, washed with THF and dried in vacuo.

reactant | 2-(3,4-diaminobenzyl)-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one | 2.89 mmol, 1 g | NC=1C=C(CN2N=C(C=CC2=O)C2=CC(=C(C(=C2)F)F)F)C=CC1N | C17H13F3N4O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-[6-Oxo-3-(3,4,5-trifluorophenyl)-6H-pyridazin-1-ylmethyl]-1,3-dihydrobenzimidazol-2-one | O=C1C=CC(=NN1CC1=CC2=C(NC(N2)=O)C=C1)C1=CC(=C(C(=C1)F)F)F | C18H11F3N4O2
